US09353107B2
Step-ii: 2-(4-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)benzyl)piperidin-1-yl)acetamide
Using the same reaction conditions as described in step-i of example-82A 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(piperidin-4-ylmethyl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride (75 mg, 0.114 mmol) was alkylated using 2-chloroacetamide (16 mg, 0.171 mmol) and sodium bicarbonate (29 mg, 0.342 mmol) in acetone/ethanol (5/5 mL) to get 30 mg (38.96% yield) of the titled compound. MS: m/z=676.8 (M+1).

reactant | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(3-(piperidin-4-ylmethyl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 0.114 mmol, 75 mg | Cl.FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=CC=C3)CC3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1
reactant | 2-chloroacetamide | 0.171 mmol, 16 mg | ClCC(=O)N | C2H4ClNO
reactant | sodium bicarbonate | 0.342 mmol, 29 mg | C([O-])(O)=O.[Na+]
solvent | acetone ethanol | 5 mL | CC(=O)C.C(C)O
product | 2-(4-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)benzyl)piperidin-1-yl)acetamide | 30 mg, 38.96% yield | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(CC2CCN(CC2)CC(=O)N)C=CC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C38H37FN6O3S
